US08541425B2
Dimethyl 3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanedioate (43.0 g, 0.0908 mol) was dissolved in methanol (271.2 mL, 6.695 mol) and lithium hydroxide monohydrate (15 g, 0.36 mol) dissolved in water (125 mL) was added. The reaction was stirred at rt for 2 h. The methanol was removed in vacuo and a resulting aqueous layer was cooled in an ice bath. The solution was made acidic pH-4 with 1N HCl to give a white precipitate. The solid precipitate was collected, washed with water, dried to give 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanedioic acid as a white crystalline powder (31.8 gm, 80%), LC/MS (M+H)+: 446, 1H NMR (DMSO-d6) δ 8.85s 1H), 8.75 (s, 1H), 8.42 (s, 1H), 7.85 (d, 1H), 7.17 (d, 1H), 5.71 (s, 2H), 5.18 (m, 1H), 3.65 (t, 2H), 3.05 (m, 4H), 0.92 (t, 2H), 0.1 (s, 9H).

reactant | Dimethyl 3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanedioate | 0.0908 mol, 43.0 g | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CC(=O)OC)CC(=O)OC)(C)C | C22H31N5O5Si
reactant | methanol | 6.695 mol, 271.2 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 0.36 mol, 15 g | O.[OH-].[Li+]
solvent | water | 125 mL | O | H2O
product | 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanedioic acid | 31.8 gm, 80% | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CC(=O)O)CC(=O)O)(C)C | C20H27N5O5Si
